datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[c:9]1([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:15])([H:4])([H:5])[H:6].[c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],133.051
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:12]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])[H:5].[H:4][H:12],50.906728
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[C:36]([H:37])([H:38])[H:39]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:33][C:36]([H:37])([H:38])[H:39],29.928152
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][C:8]([H:9])([H:10])[H:11],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19],58.576
[C:4]([H:5])([H:6])[H:7].[O:0]=[N:1][O:2][H:3]>>[H:3][C:4]([H:5])([H:6])[H:7].[O:0]=[N:1][O:2],23.016184
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[O:8][H:9]>>[C:0](=[C:1][N:2]([H:6])[H:7])([H:3])[H:4].[H:5][O:8][H:9],-3.59824
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]1([H:15])[C:4]([H:16])([H:17])[O:5]1)[O:7][O:8][H:19])([H:9])([H:10])[H:11].[O:6][H:18],45.6056
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[O:9]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:4])[H:5].[H:3][O:9],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:15])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12],95.14416
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7]=[C:8][S:9][H:10]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8](=[S:7])[S:9][H:10],50.208
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:20])[H:19])([H:17])[H:18])[H:16])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])=[C:7]([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],116.441
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][O:15][C:16](=[O:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:14][O:15][C:16](=[O:17])[H:18],85.52096
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([C:12](=[S:13])[H:21])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:17])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])[C:12](=[S:13])[H:21])([H:14])([H:15])[H:16],78.9521
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19],-10.8784
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[S:17])[H:24])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:18])([H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[S:17])[H:24],55.6472
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:11]>>[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])([H:4])[H:5].[H:6][H:11],0.0
[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[O:14]>>[H:8][O:14].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],7.5312
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:12]([O:13][H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:12]([O:13][H:17])([H:15])[H:16],81.00224
